US06372764B1
1-(1-Methyl-7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(phenylhydroxymethyl)pyrrolidine
The title compound was prepared from 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(phenylhydroxymethyl)pyrrolidine and 1-methyl-7-indolecarboxylic acid according to procedures described in Example 39. The crude product was purified by chromatography (silica, acetone:hexane=1:2) to give the separate diastereomers of the title compound.

reactant | 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(phenylhydroxymethyl)pyrrolidine | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1C(O)C1=CC=CC=C1 | C23H29FN2O
reactant | 1-methyl-7-indolecarboxylic acid | CN1C=CC2=CC=CC(=C12)C(=O)O | C10H9NO2
product | 1-(1-Methyl-7-indolecarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(phenylhydroxymethyl)pyrrolidine | CN1C=CC2=CC=CC(=C12)C(=O)N1CC(C(C1)C(O)C1=CC=CC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C33H36FN3O2
